US06037367
42(a) (+/-)-1-Phenyl-3-(3-cyclopentyloxy-4-methoxyphenyl)-5-oxo-6-acetoxyhexyne
A solution of (+/-)-1-phenyl-3-(3-cyclopentyloxy-4-methoxyphenyl)-5-oxo-6-diazohexyne (190 mg, 0.55 mmol) in HOAc (1 ml) was heated to 70° for 30 min. The reaction was cooled, diluted with H2O, and extracted with CHCl3. The extracts were washed with H2O, 5% NaHCO3, dried, and the solvent evaporated. Purification by flash chromatography (silica gel, 50% Et2O in hexane) gave the titled compound as an oil (132 mg, 63%). 1H NMR (400 MHz, CDCl3 ) δ 7.42 (m, 2 H), 7.30 (m, 3 H), 6.96 (m, 2 H), 6.82 (d, 1 H), 4.80 (m, 1 H), 4.72 (d, 1 H), 4.56 (d, 1 H), 4.36 (t, 1 H), 3.86 (s, 3 H), 3.04 (d of d, 1 H), 2.85 (d of d, 1 H), 2.16 (s, 3 H), 1.72-2.00 (m, 6 H), 1.54-1.64 (m, 2 H).

reactant | (+/-)-1-phenyl-3-(3-cyclopentyloxy-4-methoxyphenyl)-5-oxo-6-diazohexyne | 0.55 mmol, 190 mg | C1(=CC=CC=C1)C#CC(CC(C=[N+]=[N-])=O)C1=CC(=C(C=C1)OC)OC1CCCC1 | C24H24N2O3
reactant | HOAc | 1 ml | CC(=O)O | C2H4O2
solvent | H2O | O | H2O
product | (+/-)-1-Phenyl-3-(3-cyclopentyloxy-4-methoxyphenyl)-5-oxo-6-acetoxyhexyne | 132 mg, 63% | C1(=CC=CC=C1)C#CC(CC(COC(C)=O)=O)C1=CC(=C(C=C1)OC)OC1CCCC1 | C26H28O5
